### ISSUE TITLE
Ambiguous names suggested

### ISSUE THREAD

**Issue by hanwenzhu** [JOSHCLUNE/LeanHammer#12]
Hammer takes the names from the premise selector verbatim and inputs them to `aesop` and `hammerCore`. These names might be ambiguous because of open namespaces. As a result either fails.

## MWE:

```lean
import Hammer

set_premise_selector Lean.PremiseSelection.Cloud.premiseSelector

class AddComm (R : Type) extends Add R where
  add_comm : ∀ a b : R, a + b = b + a

theorem add_comm (R) [AddComm R] (a b : R) : a + b = b + a :=
  AddComm.add_comm ..

open AddComm

-- error, ambiguous names in `#check @add_comm`
#check @add_comm

-- fails, ambiguous names
example (R) [AddComm R] (a b : R) : a + b = b + a := by
  hammer -- also fails even if {disableAesop := true}
```

## Proposed fix:

Change the [line](https://github.com/JOSHCLUNE/LeanHammer/blob/2a8ce2f68d8a4a871933c20a79be442084f7e2a5/Hammer/Tactic.lean#L73)

```lean
  let premises := premises.map (fun p => p.name)
```

to

```lean
  let premises ← premises.mapM (fun p => unresolveNameGlobal p.name)
```

This has the side effect (unless one sets `(fullNames := true)` for `unresolveNameGlobal`) that the unresolved names will also be short (e.g. it will be `a` instead of `A.a` when `open A` and there is no ambiguity).

However, I am not sure whether this `unresolveNameGlobal` should be in LeanHammer, or in the premise selection API itself.

## Note:

`aesop?` has a related but separate bug that causes the suggestion from hammer even using the proposed fix above does not work. But this is an Aesop bug not a LeanHammer bug. MWE:

```lean
-- after the above MWE
example (R) [AddComm R] (a b : R) : a + b = b + a := by
  aesop? (add safe apply _root_.add_comm)
```

Expected: `apply _root_.add_comm`; actual: `apply add_comm` (the try-this suggestion throws error).
